Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Briefly, this is a ___ with h/o dementia x at least ___ year, 
expressive aphasia, recent subdural hematoma, paroxysmal AV 
block, and anemia who presents after a 15-ft fall from the ___ 
floor of his home. The patient is being transferred from the 
ortho service because of ongoing placement issues. Upon 
admission to the ED, a trauma work-up was performed, which 
revealed new minimally-moderately displaced spinous process 
fractures of T5-T10 as well as a minimally displaced transverse 
fracture of T12. The spine team recommended a TLSO brace and no 
surgery. The ortho team also reports that the patient has had 
delirium with worsened mental status over the past 2 days and 
ongoing agitation requiring Haldol and restraints. 
.  
On transfer, VS are 97.7  144/58   79  18  99% on RA. The 
patient is very hard-of-hearing and it is difficult for him to 
answer questions. He is oriented only to person, thinks he is at 
the ___. He cannot answer questions 
about why he was admitted. He denies pain currently.    
.  
Review of sytems: Unable to obtain from patient; no fevers since 
admission 
 
Past Medical History:
Dementia - ongoing work-up, thought to possibly be ___ 
___ plus syndrome such as progressive supranuclear palsy
Subdural hematoma - on MRI ___
Gout
MVA - ___lock - no pacemaker given dementia
Anemia
Cholelithiasis
Bilateral fat-containing hernia
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
On transfer to medicine service: 
.
VS: 97.7  144/58   79  18  99% on RA  
GENERAL:  Elderly gentleman sitting in the hallway eating lunch 
with food spilled on gown; very hard-of-hearing; oriented only 
to name. Frequently tries to get up despite re-direction.  
HEENT: Sclera anicteric. Poor dentition. Pupils are small, 
minimally reactive in hallway, EOMI - but does not track 
smoothly. MMM. Conjunctiva were pink, no pallor or cyanosis of 
the oral mucosa.  
NECK: Supple, JVP not elevated, no bruits  
CARDIAC: Irregular (?frequent premature beats), prominent S1, 
quiet S2. No m/r/g. 
LUNGS: Transmitted upper airway noises. Resp were unlabored, no 
accessory muscle use. CTAB, no crackles, wheezes or rhonchi. 
BACK: TLSO brace in place, grimaces with palpation of thoracic 
spine
-abrasion on R upper back 
ABDOMEN: Brace in place. Normoactive bs. Soft, NTND. No HSM or 
tenderness. 
EXTREMITIES: No edema. 
NEURO: oriented x 1; alert; no obvious CN deficits though pt 
does not follow most commands, EOMI; full strength in bil ___, 
gait deferred  
 
Pertinent Results:
Labs/Studies: 
.
___ 06:00AM BLOOD WBC-6.5 RBC-2.68* Hgb-8.7* Hct-26.5* 
MCV-99* MCH-32.3* MCHC-32.6 RDW-13.6 Plt ___
___ 12:00PM BLOOD ___ PTT-25.5 ___
___ 06:00AM BLOOD Ret Aut-1.6
___ 06:00AM BLOOD Glucose-103* UreaN-26* Creat-0.9 Na-141 
K-4.2 Cl-107 HCO3-24 AnGap-14
___ 06:00AM BLOOD ALT-20 AST-30 LD(LDH)-301* AlkPhos-71 
TotBili-0.5 DirBili-0.2 IndBili-0.3
___ 12:00PM BLOOD Lipase-23
___ 06:00AM BLOOD Albumin-3.4* Calcium-8.9 Phos-3.7 Mg-2.0
___ 06:00AM BLOOD Hapto-34
___ 12:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
.
Urine culture: negative
Blood culture x 2: negative
C.diff x 2: negative
. 
___ TSH WNL
___ B12 243/folate 8.8
___ Ferritin ___ Lactate 5.4
.
___ CXR old 12th rib fx  
___ CT C-spine no fx  
___ CT abd/pelvis no acute process  
___ CT chest minimally-mildly displaced T5-T10 spinous 
process fx, mildly displaced T12 R transverse fx 
 
Brief Hospital Course:
___ with h/o dementia x at least ___ year, expressive aphasia, 
recent subdural hematoma, paroxysmal AV block, and anemia who 
presents after a 15-ft fall from the ___ floor of his home 
. 
# Fall: The patient underwent trauma evaluation in the ED. Spine 
imaging showed minimally displaced spinous process fractures 
from T5-T10 as well as a new T12 transverse process fracture. He 
was initially on the orthopedic surgery service. They 
recommended against surgery and placed a TLSO brace for comfort 
to be worn for ___ weeks. He was discharged with ortho follow-up 
and with home physical therapy as well as a home safety 
evaluation. His daughter is in the process of obtaining 
guardianship. Elderly home services was also involved with the 
case. The patient received standing Tylenol for pain and was 
discharged on VitD and calcium supplementation as well as plans 
for standing Tylenol. 
.  
# AMS - Head CT was negative. The patient was transferred to the 
medicine service 2 days prior to discharge because of delirium. 
The patient's daughter was involved with the patient's care and 
reported that the patient was at his baseline mental status but 
that he was more agitated than usual. The patient's pain was 
treated, restraints were discontinued, he was given headphones 
to help with the hospital noise and antipsychotic/sedating 
medications were minimized once transferred to the medicine 
service. Recent TSH was normal, B12 low normal, and RPR 
negative. ___ MRI showed small subdural hematoma, which was 
not visualized on Head CT. Per recent neuro visit, the patient 
may have ___ plus syndrome such as supranuclear palsy. 
.  
#Anemia - The patient's Hct was stable during admission: ranged 
from ___ with an MCV of 99. Recent iron studies indicated 
anemia of chronic inflammation. B12 was low normal and 
supplementation was continued. Recent folate was normal. 
.
#H/o AV block: EKG showed SR at 61 w/ frequent PACs, RBBB. 
Further work-up of this arrhythmia had been performed in the 
past, however, the patient and family declined pacemaker 
placement at that time. 
.
#Diarrhea: C.diff negative x 2. Resolved prior to the day of 
discharge.  
.
#The patient received SC heparin for DVT prophylaxis. He 
remained full code during this admission. Communication was with 
the patient's daughter, ___ cell ___, h: 
___. 
 
Medications on Admission:
Miralax
Colace
Senna
VitB12 1000 mcg qday
 
Discharge Medications:
1. cyanocobalamin (vitamin B-12) 500 mcg Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).
Disp:*60 Tablet(s)* Refills:*2*
2. acetaminophen 650 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours).  
3. Calcium 500 With D 500 mg(1,250mg) -400 unit Tablet Sig: One 
(1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
Fall w/ T5-T10 spinous process fractures and T12 transverse 
process fx
Dementia
. 
Secondary: 
Gout
Paroxysmal AV Block
Anemia

 
Discharge Condition:
Mental Status: Confused - always, oriented only to person at 
baseline. 
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid 
(___). 

 
Discharge Instructions:
Dear Mr. ___, 
You were admitted for a fall. Imaging studies showed that you 
had fractured several bones in your spine. They recommend that 
you remain in the back brace for comfort for at least ___ weeks 
or until your follow-up appointment. They recommended against 
surgery. In addition, you have a low red blood cell count - 
anemia - you should follow-up with your primary care doctor 
about this issue. While you were in the hospital, your blood 
counts were low, but stable. 
. 
We made the following changes to your medications:
We STARTED Tylenol ___ mg to be taken every 6 hours until your 
pain is relieved and your fractures are healed
We STARTED Calcium w/ Vitamin D to be taken twice per day 
. 
Your follow-up appointments are listed below. 
 
Followup Instructions:
___